US08203003B2
Into a solution of trimethylsilyl (2S,4R)—N-trimethylsilyl-4-(trimethylsilyloxy)-pyrrolidine-2-carboxylate (5.22 g, 15.0 mmol) in 15 ml of anhydrous dichloromethane was drop wise added a solution of chloroacetyl fluoride in 5 ml of dichloromethane with vigorous stirring at room temperature. Exothermic reaction occurred with liberation of Me3SiF. The reaction mixture was stirred at room temperature for 2 h and then the reaction mixture was evaporated to dryness at reduced pressure, which gave 5.02 g (yield 95%) of trimethylsilyl (2S,4R)—N-chloroacetyl-4-(trimethylsilyloxy)pyrrolidine-2-carboxylate as off-white solid: 1H-NMR (CDCl3) δ 0.02 (m, 9H), 0.19 (m, 9H), 1.80-2.4 (m, 2H), 3.3-3.8 (m, 2H), 3.8-4.0 (m, 2H), 4.2-4.6 (m, 2H): 13C-NMR (CDCl3) δ −0.32 (CSi), −0.05 (CSi), 37.91, 41.81, 55.30, 59.21, 70.31, 165.13, 171.78.

reactant | trimethylsilyl (2S,4R)—N-trimethylsilyl-4-(trimethylsilyloxy)-pyrrolidine-2-carboxylate | 15.0 mmol, 5.22 g | C[Si](N1[C@@H](C[C@H](C1)O[Si](C)(C)C)C(=O)O[Si](C)(C)C)(C)C | C14H33NO3Si3
reactant | chloroacetyl fluoride | ClCC(=O)F | C2H2ClFO
reactant | Me3SiF | [Si](C)(C)(C)F | C3H9FSi
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | trimethylsilyl (2S,4R)—N-chloroacetyl-4-(trimethylsilyloxy)pyrrolidine-2-carboxylate | 5.02 g, yield 95% | ClCC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C)C(=O)O[Si](C)(C)C | C13H26ClNO4Si2
